US04327026
62.7 g (0.2 mol) of crude rac-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one in 1 l of concentrated hydrochloric acid is treated portionwise while stirring with a total of 135.5 g (0.6 mol) of tin chloride, stirred at room temperature for 2 hours and the mixture is neutralised in the cold with 10 N sodium hydroxide. The aqueous phase is extracted with a total of 8 l of methylene chloride/ethanol (4:1), the combined organic extracts are washed with saturated sodium chloride solution, dried and evaporated. From ether there is obtained 7-amino-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one of melting point 270°.

reactant | rac-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.2 mol, 62.7 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12FN3O3
reactant | tin chloride | 0.6 mol, 135.5 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | hydrochloric acid | 1 l | Cl | ClH
product | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2)=O)C)C2=C(C=CC=C2)F)C1 | C16H14FN3O
